US04289914
PREPARATION OF 2,15-DIOXO-4,4,7,7,10,10,13,13-OCTAMETHYL-5,6,11,12-TETRAOXA-8-HEXADECYNE
A mixture of 19.6 g. (0.2 mole) of mesityl oxide, 74.4 g. (0.083 mole) of 2,5-dimethyl-2,5-dihydroperoxy-3-hexyne and 60 ml. of ether was stirred at 0° C. while 1.3 g. of 77% sulfuric acid solution was slowly added. The reaction mixture was allowed to warm slowly to 30° C. and stirred for a total of 16 hours. The organic layer was separated, washed with water, 5% sodium hydroxide solution and again with water to pH 8. The mixture was then subjected to steam distillation in the presence of sodium bicarbonate solution at 20 torr for 2 hours to remove unreacted mesityl oxide and hydroperoxide. The product was taken up in ether, dried over anhydrous magnesium sulfate and the ether removed under reduced pressure leaving 20.52 g. of product (66.7% yield).

reactant | mesityl oxide | 0.2 mole | O=C(C)C=C(C)C | C6H10O
reactant | 2,5-dimethyl-2,5-dihydroperoxy-3-hexyne | 0.083 mole | CC(C)(C#CC(C)(OO)C)OO | C8H14O4
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | ether | CCOCC | C4H10O
product | 2,15-DIOXO-4,4,7,7,10,10,13,13-OCTAMETHYL-5,6,11,12-TETRAOXA-8-HEXADECYNE | 66.7% yield | O=C(C)CC(OOC(C#CC(OOC(CC(C)=O)(C)C)(C)C)(C)C)(C)C | C20H34O6
